US07067658B2
Sec-butyl-[4-(chloro-4-difluoromethoxy-phenyl)-3-nitro-2,3-dihydro-pyridin-2-yl]-amine (0.163, 0.44 followed by conc. NH4OH (0.4 mL) and Na2S2O4 (0.62 g, 3.55 mmol) and stirred at room temperature for 4 h. The solution was extracted with EtOAc, washed with H2O, brine, dried Na2SO4, filtered, and concentrated in vacuo to produce 0.145 g (97%) of N2-sec-butyl-4-(2-chloro-4-difluoromethoxy-phenyl)-2,3-dihydro-pyridine-2,3-diamine as a yellow oil.

reactant | Sec-butyl-[4-(chloro-4-difluoromethoxy-phenyl)-3-nitro-2,3-dihydro-pyridin-2-yl]-amine | C(C)(CC)NC1N=CC=C(C1[N+](=O)[O-])C1=C(C=C(C=C1)OC(F)F)Cl | C16H18ClF2N3O3
reactant | NH4OH | 0.4 mL | [NH4+].[OH-]
reactant | Na2S2O4 | 3.55 mmol, 0.62 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | N2-sec-butyl-4-(2-chloro-4-difluoromethoxy-phenyl)-2,3-dihydro-pyridine-2,3-diamine | 0.145 g, 97% | C(C)(CC)NC1N=CC=C(C1N)C1=C(C=C(C=C1)OC(F)F)Cl | C16H20ClF2N3O
